US07923450B2
a) 6-Bromo-2-(4-chloro-phenyl)-cyclohexanone
2-(4-Chloro-phenyl)-cyclohexanone (51 mg, 0.24 mmol) was dissolved in chloroform (1 mL). To this solution bromine (41.0 mg, 0.26 mmol) in chloroform (0.5 mL) was added drop wise at room temperature. The reaction was stirred for 1½ hours at room temperature. The solvent was removed under reduced pressure to yield the crude title compound (74 mg) which was used directly in the next step without further purification.

reactant | 2-(4-Chloro-phenyl)-cyclohexanone | 0.24 mmol, 51 mg | ClC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13ClO
reactant | bromine | 0.26 mmol, 41.0 mg | BrBr | Br2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-2-(4-chloro-phenyl)-cyclohexanone | 74 mg | BrC1CCCC(C1=O)C1=CC=C(C=C1)Cl | C12H12BrClO
